US05356897
A mixture of 3-dimethylamino-1-(4-fluorophenyl)-2-(pyridin-4-yl)-2-propen-1-one (6.15 g) and hydroxylamine hydrochloride (4.75 g) in dry ethanol (40 ml) was refluxed for 20 minutes. The mixture was cooled and concentrated in vacuo. The residue was dissolved in dilute hydrochloric acid and then treated with an aqueous saturated sodium bicarbonate solution. The precipitates were collected by filtration, washed with water, and dried to give 5-(4-fluorophenyl)-4-(pyridin-4-yl)isoxazole (5.35 g)

reactant | 3-dimethylamino-1-(4-fluorophenyl)-2-(pyridin-4-yl)-2-propen-1-one | 6.15 g | CN(C=C(C(=O)C1=CC=C(C=C1)F)C1=CC=NC=C1)C | C16H15FN2O
reactant | hydroxylamine hydrochloride | 4.75 g | Cl.NO
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-(4-fluorophenyl)-4-(pyridin-4-yl)isoxazole | 5.35 g | FC1=CC=C(C=C1)C1=C(C=NO1)C1=CC=NC=C1 | C14H9FN2O
